US08557830B2
6-Iodo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (620 mg, 1878 μmol) was dissolved in THF (1 mL) in a 15 mL microwave tube and sealed. The solution was flushed with argon and then cooled to −40° C. A solution of isopropylmagnesium chloride (2254 μl, 2254 μmol) (LiCl complex, 1 N in THF) was added in dropwise slowly. The reaction was allowed to stirred at −40° C. for 15 min, LCMS showed incompletion of Mg—I exchange. The mixture was warmed to rt, LCMS indicated Mg—I exchange was still not completed, and then the mixture was cooled to −40° C. again and a solution of isopropylmagnesium chloride-LiCl complex (1 N in THF, 1 mL) was added again in dropwise via a syringe. The reaction mixture was stirred at this temperature for 20 min (LCMS showed all starting material consumed). Under −40° C., a solution of zinc chloride, 0.5 M in THF (4883 μl, 2441 μmol) was added in dropwise. Another 2 mL of the zinc chloride solution was added in to counter the additional Mg reagent. The mixture was stirred at this temperature for 1 hr and gradually warmed to RT. This solution was poured into a solution of 4-chloro-5-iodopyrimidine (429 mg, 1784 μmol), tris(dibenzylideneacetone)dipalladium(0) (103 mg, 113 μmol), and tri-2-furylphosphine (105 mg, 451 μmol) (TFP) in THF (15 mL) flushed with argon. This reaction mixture was heated to 60° C. under argon for 16 hours. The reaction mixture was cooled to rt and quenched with NH4Cl (aq., sat., 10 mL) and partitioned between H2O and EtOAc, 40 mL each. The organic was collected, and filtered through a layer of silica gel. The silica layer was rinsed with THF (80 mL). The filtrate was combined and concentrated. The residue was loaded on silica gel and purified via flash column on silica (A: hexane, B: 1:1 THF/EtOAc, B:A=5-40%). Desired fractions were collected and concentrated to give a dark brown gel. This brown gel was precipitated with hexane:EtOAc=1:1 to give a light brown solid. This solid was washed with the same solvent once and then dried in the air to give 6-(4-chloropyrimidin-5-yl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purine. MS Found: (ESI pos. ion) m/z 317 (M+H+).

reactant | 6-Iodo-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 1878 μmol, 620 mg | IC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11IN4O
reactant | isopropylmagnesium chloride | 2254 μmol, 1 N, 2254 μl | C(C)(C)[Mg]Cl
reactant | isopropylmagnesium chloride LiCl | 1 N, 1 mL | C(C)(C)[Mg]Cl.[Li+].[Cl-]
reactant | 4-chloro-5-iodopyrimidine | 1784 μmol, 429 mg | ClC1=NC=NC=C1I | C4H2ClIN2
reactant | tri-2-furylphosphine | 451 μmol, 105 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
catalyst | zinc chloride | 2 mL | [Cl-].[Zn+2].[Cl-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 113 μmol, 103 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 2441 μmol, 4883 μl | C1CCOC1 | C4H8O
product | 6-(4-chloropyrimidin-5-yl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | ClC1=NC=NC=C1C1=C2N=CN(C2=NC=N1)C1OCCCC1 | C14H13ClN6O
